US07338960B2
4-Methyl-1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol
A solution of 6-[4-(trifluoromethyl)phenyl]-2-pyridinecarbaldehyde (350 mg, 1.39 mmol) in Et2O (14 mL) was cooled to 0° C. To this was slowly added the freshly prepared Grignard reagent (1.26 mL, 1.53 mmol), prepared from magnesium turnings (500 mg, 0.02 mol) and 1-bromo-3-methyl butane (2.34 mL, 0.02 mol) in dry Et2O (16.5 mL). The resulting mixture was stirred under nitrogen at 0° C. After 1.5 hours, more Grignard reagent (0.3 mL, 0.36 mmol) was added and the resulting mixture stirred at 0° C. for a further 1.5 hours. The reaction mixture was then quenched by cautious addition of aqueous HCl (2M, 3 mL) and the solvent removed under vacuum. The residue was partitioned between EtOAc (30 mL) and water (20 mL), the layers separated and the aqueous re-extracted with EtOAc (30 mL). The combined organic layer was washed with brine (50 mL), dried (MgSO4) and reduced under vacuum. Purification by SPE (silica, 20 g cartridge), eluting with cyclohexane:EtOAc (gradient 99:1 to 1:1) followed by EtOAc then MeOH afforded the title compound as a colourless oil (179 mg).

reactant | 6-[4-(trifluoromethyl)phenyl]-2-pyridinecarbaldehyde | 1.39 mmol, 350 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C=O)(F)F | C13H8F3NO
reactant | magnesium | 0.02 mol, 500 mg | [Mg] | Mg
reactant | 1-bromo-3-methyl butane | 0.02 mol, 2.34 mL | BrCCC(C)C | C5H11Br
solvent | Et2O | 14 mL | CCOCC | C4H10O
solvent | Et2O | 16.5 mL | CCOCC | C4H10O
product | 4-Methyl-1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol | 179 mg | CC(CCC(O)C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)C | C18H20F3NO
